US07071198B1
(R)-5-(N-METHYL-2-PYROLIDINYL)-4-(4-PYRIDYL)-3-(4-FLUOROPHENYL)PYRAZOLE
By following the method of Example C-75 and substituting (R)-5-(2-pyrolidinyl)-4-(4-pyridyl)-3-(4-fluorophenyl)pyrazole Example C-125) for 5-(4-piperidyl)-4-(4-pyridyl)-3-(4-chlorophenyl)pyrazole hydrochloride (Example C-74) the title compound was prepared: MS (M+H): 323 (base peak).

reactant | (R)-5-(2-pyrolidinyl)-4-(4-pyridyl)-3-(4-fluorophenyl)pyrazole | N1[C@H](CCC1)C1=C(C(=NN1)C1=CC=C(C=C1)F)C1=CC=NC=C1 | C18H17FN4
reactant | 5-(4-piperidyl)-4-(4-pyridyl)-3-(4-chlorophenyl)pyrazole hydrochloride | Cl.N1CCC(CC1)C1=C(C(=NN1)C1=CC=C(C=C1)Cl)C1=CC=NC=C1
product | (R)-5-(N-METHYL-2-PYROLIDINYL)-4-(4-PYRIDYL)-3-(4-FLUOROPHENYL)PYRAZOLE | CN1[C@H](CCC1)C1=C(C(=NN1)C1=CC=C(C=C1)F)C1=CC=NC=C1 | C19H19FN4
